** sch_path: /home/designer/shared/frac-n-pll-vco-unic_cass/xschem/lc-vco/LC_VCO_parametric.sch
**.subckt LC_VCO_parametric OUTp OUTn
*.opin OUTp
*.opin OUTn
XM6 net5 Vgs GND GND sg13_lv_nmos w=W_6 l=L_TL ng=n_6 m=1
XM4 net1 net4 VDD VDD sg13_lv_pmos w=W_34 l=L_CC ng=n_34 m=1
X5M3 net4 net1 VDD VDD sg13_lv_pmos w=W_34 l=L_CC ng=n_34 m=1
XM2 OUTp OUTn Vx GND sg13_lv_nmos w=W_12 l=L_CC ng=n_12 m=1
XM1 OUTn OUTp Vx GND sg13_lv_nmos w=W_12 l=L_CC ng=n_12 m=1
V1 VDD GND 1.2
Vpmos_p net1 net2 0
.save i(vpmos_p)
Vnmos_p net2 OUTp 0
.save i(vnmos_p)
Vtail Vx net5 0
.save i(vtail)
XM5 Vgs Vgs GND GND sg13_lv_nmos w=W_5 l=L_TL ng=n_5 m=1
I0 VDD Vgs 100u
Vpmos_n net4 net3 0
.save i(vpmos_n)
Vnmos_n net3 OUTn 0
.save i(vnmos_n)
Vup Vctrl GND PULSE(0.4 1.1 10n 90n 1n 1s 2s)
XC1 net3 net2 GND cap_rfcmim w=22.1e-6 l=22.1e-6 wfeed=10.0e-6
XC3 OUTp Vctrl OUTn GND sg13_hv_svaricap w=9.74u l=0.8u Nx=7
XC2 OUTp Vctrl OUTn GND sg13_hv_svaricap w=9.74u l=0.8u Nx=7
x1 net3 net2 4nH_INDUCTOR
**** begin user architecture code


.param temp=27
.control
save all
op
write LC_VCO_parametric.raw
.endc



.lib cornerMOSlv.lib mos_tt
.lib cornerMOShv.lib mos_tt
.lib cornerRES.lib res_typ
.lib cornerCAP.lib cap_typ



.param L_CC=0.13u

.param W_34=36u
.param n_34=5

.param W_12=22u
.param n_12=3

.param L_TL=1u

.param W_6=384u
.param n_6=48

.param W_5=64u
.param n_5=8



.include 4nH_INDUCTOR.spice




.param temp = 27
.options method=gear
.options savecurrents
.options noacct

.control

* Save required signals
save v(OUTp) v(OUTn) v(Vx)

* Long transient simulation
tran 10p 500n 100n

* Save raw waveform
write LC_VCO_parametric_tb.raw

* Find average power dissipation
let tot_power = abs(v(vdd)*i(v1))
meas tran avg_power AVG tot_power FROM=400n TO=450n

* Plot steady-state waveform
let vout = v(OUTp)
meas tran vout_pp PP vout FROM=400n TO=450n
plot vout xlimit 400n 405n

* FFT analysis
setplot tran1
linearize vout
set specwindow=blackman
fft vout

* Plot FFT spectrum
let power_db = db(vout)
plot power_db xlimit 2.34G 2.54G ylimit -200 0

* Find the maximum magnitude value between 2G and 3G
meas sp max_power_db max power_db FROM=2G TO=3G

* Save FFT data
wrdata fft_output_parametric.txt frequency power_db

* Save waveform for external processing
wrdata vco_waveform_parametric.txt power_db

.endc





.param temp = 27
.options method=gear
.options savecurrents
.options noacct

.control

* Save required signals
save v(OUTp) v(OUTn) v(Vx)

* Long transient simulation
tran 10p 50n

* Plot transient waveform
let vout = v(OUTp)
plot vout v(Vctrl) v(Vx)

* Find average power dissipation
let tot_power = abs(v(vdd)*i(v1))
plot tot_power xlimit 20n 35n

.endc


**** end user architecture code
**.ends
.GLOBAL VDD
.GLOBAL GND
.end
